US04320127
Preparation of 3-n-hexyl-1-propionyl-1,2-dihydropyrido[3,2-e]-as-triazine hydrochloride
A mixture of 12.0 g (0.041 mole) of 3-hexyl-1,2-dihydropyrido[3,2-e]-as-triazine dihydrochloride and 70 ml of propionic anhydride is stirred under argon at 120°-130° C. On cooling the reaction mixture the crystalline product separates within an hour.

reactant | 3-hexyl-1,2-dihydropyrido[3,2-e]-as-triazine dihydrochloride | 0.041 mole, 12.0 g | Cl.Cl.C(CCCCC)C=1NNC2=C(N1)C=CC=N2
reactant | propionic anhydride | 70 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 3-n-hexyl-1-propionyl-1,2-dihydropyrido[3,2-e]-as-triazine hydrochloride | Cl.C(CCCCC)C=1NN(C2=C(N1)C=CC=N2)C(CC)=O | InChI=1S/C15H22N4O.ClH/c1-3-5-6-7-10-13-17-12-9-8-11-16-15(12)19(18-13)14(20)4-2;/h8-9,11H,3-7,10H2,1-2H3,(H,17,18);1H
